US07820825B2
A solution of 1-{4-[(2-phenyl-1H-benzimidazol-1-yl)methyl]benzoyl}pyrrolidin-3-ol (0.85 g, 3 mmol) in DCM at 0° C. is treated with and triethylamine (0.91 mL, 6.6 mmol) followed by methylsulfonyl chloride (0.25 mL, 3.3 mmol), stirred at room temperature overnight and concentrated to give methanesulfonic acid 1-[4-(2-phenyl-benzoimidazol-1-ylmethyl)-benzoyl]-pyrrolidin-3-yl ester as a white powder (1.4 g) identified by HPLC and MS [476.3 m/e (M+H)].

reactant | 1-{4-[(2-phenyl-1H-benzimidazol-1-yl)methyl]benzoyl}pyrrolidin-3-ol | 3 mmol, 0.85 g | C1(=CC=CC=C1)C1=NC2=C(N1CC1=CC=C(C(=O)N3CC(CC3)O)C=C1)C=CC=C2 | C25H23N3O2
reactant | triethylamine | 6.6 mmol, 0.91 mL | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 3.3 mmol, 0.25 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 1-[4-(2-phenyl-benzoimidazol-1-ylmethyl)-benzoyl]-pyrrolidin-3-yl ester | 1.4 g | C1(=CC=CC=C1)C1=NC2=C(N1CC1=CC=C(C(=O)N3CC(CC3)OS(=O)(=O)C)C=C1)C=CC=C2 | C26H25N3O4S
